US06770659B2
A mixture of 4-(4-fluorobenzoyl)piperidine (5 mmol) and 2-(4-ethylphenyl)-oxirane (5 mmol) was refluxed in 30 ml of isopropanol for 4 h. This solution was then concentrated on a rotary evaporator and diluted with ethyl acetate. This mixture was then washed with brine, the resulting organic layer was dried and concentrated in vacuo. The crude product was dissolved in THF (50 ml) and was added with 1,1′-carbonyl diimidazole (2 mmol) at 0° C. The reaction mixture was stirred at room temperature for 4 h, followed by the addition of excess methanol (10 ml) at 0° C. After 5 h stirring at room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, dried and concentrated in vacuo. The resulting carbonic acid 1-(4-ethyl-phenyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl ester methyl ester was obtained by column chromatography.

reactant | 4-(4-fluorobenzoyl)piperidine | 5 mmol | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | 2-(4-ethylphenyl)-oxirane | 5 mmol | C(C)C1=CC=C(C=C1)C1OC1 | C10H12O
reactant | 1,1′-carbonyl diimidazole | 2 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanol | 10 ml | CO | CH4O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | carbonic acid 1-(4-ethyl-phenyl)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-ethyl ester methyl ester | COC(OC(CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)CC)=O | C24H28FNO4
